US07737149B2
Sodium triacetoxyborohydride (532 mg, 2.51 mmol) was added to methyl 2-(piperidin-4-yl)pyrimidine-5-carboxylate (222 mg, 1.00 mmol), formaldehyde (37% aqueous solution, 1.50 ml, 20.07 mmol) and acetic acid (0.115 ml, 2.01 mmol) in methanol (4.994 ml) at 25° C. The resulting solution was stirred at ambient temperature for 3 days. The reaction mixture was diluted with methanol (20 mL) and the crude product was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford methyl 2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxylate (223 mg, 94%) as a cream waxy solid. This was used directly with no further purification.

reactant | Sodium triacetoxyborohydride | 2.51 mmol, 532 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methyl 2-(piperidin-4-yl)pyrimidine-5-carboxylate | 1.00 mmol, 222 mg | N1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C11H15N3O2
reactant | formaldehyde | 20.07 mmol, 1.50 ml | C=O | CH2O
reactant | acetic acid | 2.01 mmol, 0.115 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4.994 ml | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | methyl 2-(1-methylpiperidin-4-yl)pyrimidine-5-carboxylate | 223 mg, 94% | CN1CCC(CC1)C1=NC=C(C=N1)C(=O)OC | C12H17N3O2
